** sch_path: /foss/designs/libs/C01/project_defs/C01_A.sch
.subckt C01_A PROG_ENA OUT_CS OUT_TELESCOPIC OUT_5T OUT_FOLDED SCAN_OUT_OUT IBIAS IN_CS INN_TELESCOPIC INP_TELESCOPIC INN_5T
+ INP_5T INN_FOLDED INP_FOLDED CLK SCAN_IN VSS VDD SCAN_OUT_IN SCAN_OUT_OE SCAN_OUT_SL SCAN_OUT_IE SCAN_OUT_PD SCAN_OUT_PDRV1
+ SCAN_OUT_PDRV0 SCAN_OUT_PU SCAN_OUT_CS CLK_PD CLK_PU SCAN_IN_PU SCAN_IN_PD PROG_ENA_PU PROG_ENA_PD
*.PININFO PROG_ENA:B OUT_CS:B OUT_TELESCOPIC:B OUT_5T:B OUT_FOLDED:B SCAN_OUT_OUT:B IBIAS:B IN_CS:B INN_TELESCOPIC:B
*+ INP_TELESCOPIC:B INN_5T:B INP_5T:B INN_FOLDED:B INP_FOLDED:B CLK:B SCAN_IN:B VSS:B VDD:B SCAN_OUT_IN:B SCAN_OUT_OE:B SCAN_OUT_SL:B SCAN_OUT_IE:B
*+ SCAN_OUT_PD:B SCAN_OUT_PDRV1:B SCAN_OUT_PDRV0:B SCAN_OUT_PU:B SCAN_OUT_CS:B CLK_PD:B CLK_PU:B SCAN_IN_PU:B SCAN_IN_PD:B PROG_ENA_PU:B
*+ PROG_ENA_PD:B
x1 CLK SCAN_OUT_OUT SCAN_IN VSS VDD OUT_FOLDED INP_FOLDED OUT_5T IBIAS INN_FOLDED INP_5T INN_5T INP_TELESCOPIC OUT_TELESCOPIC
+ OUT_CS IN_CS INN_TELESCOPIC PROG_ENA DUT
.ends

* expanding   symbol:  libs/core_tb/schem/DUT.sym # of pins=18
** sym_path: /foss/designs/libs/core_tb/schem/DUT.sym
** sch_path: /foss/designs/libs/core_tb/schem/DUT.sch
.subckt DUT CLK SCAN_OUT SCAN_IN VSS VDD OUT_FOLDED INP_FOLDED OUT_5T IBIAS INN_FOLDED INP_5T INN_5T INP_TELESCOPIC OUT_TELESCOPIC
+ OUT_CS IN_CS INN_TELESCOPIC PROG_ENA
*.PININFO OUT_FOLDED:B OUT_5T:B OUT_TELESCOPIC:B OUT_CS:B VSS:B VDD:B CLK:B SCAN_IN:B SCAN_OUT:B PROG_ENA:B INP_FOLDED:B
*+ INN_FOLDED:B INP_TELESCOPIC:B INP_5T:B INN_5T:B IN_CS:B INN_TELESCOPIC:B IBIAS:B
x1 VDD SCAN_OUT EN_1_5T EN_0_5T EN_0_CS EN_1_CS EN_0_TELESCOPIC EN_1_FOLDED EN_0_FOLDED EN_1_TELESCOPIC SCAN_IN !EN_1_FOLDED
+ !EN_1_CS !EN_0_TELESCOPIC !EN_0_CS !EN_1_5T !EN_0_5T !EN_1_TELESCOPIC !EN_0_FOLDED CLK VSS scan_chain
x2 EN_0_FOLDED VDD !EN_0_FOLDED VSS EN_1_FOLDED !EN_1_FOLDED INN_FOLDED_PROT INP_FOLDED_PROT OUT_FOLDED IBIAS_PROT
+ programmable_folded_cascode
x5 !EN_0_CS VSS VDD EN_1_CS !EN_1_CS EN_0_CS IN_CS_PROT OUT_CS IBIAS_PROT programmable_common_source
M1 IBIAS_PROT IBIAS_PROT VSS VSS nfet_03v3 L=1u W=27.1u nf=1 m=1
x3 VDD EN_0_5T !EN_0_5T OUT_5T EN_1_5T !EN_1_5T INN_TELESCOPIC_PROT INP_TELESCOPIC_PROT IBIAS_PROT VSS programmable_5tOTA
x6 VDD PROG_ENA !PROG_ENA VSS inv1
x7 PROG_ENA VDD EN_0_FOLDED VSS VSS !PROG_ENA transmission_gate
x8 PROG_ENA VDD EN_1_FOLDED VSS VSS !PROG_ENA transmission_gate
x9 PROG_ENA VDD EN_0_TELESCOPIC VSS VSS !PROG_ENA transmission_gate
x10 PROG_ENA VDD EN_1_TELESCOPIC VSS VSS !PROG_ENA transmission_gate
x11 PROG_ENA VDD EN_0_5T VSS VSS !PROG_ENA transmission_gate
x12 PROG_ENA VDD EN_1_5T VSS VSS !PROG_ENA transmission_gate
x13 PROG_ENA VDD EN_0_CS VSS VSS !PROG_ENA transmission_gate
x14 PROG_ENA VDD EN_1_CS VSS VSS !PROG_ENA transmission_gate
x4 VDD OUT_TELESCOPIC EN_0_TELESCOPIC !EN_0_TELESCOPIC EN_1_TELESCOPIC !EN_1_TELESCOPIC INN_5T_PROT INP_5T_PROT VSS IBIAS_PROT
+ programmable_telescopic_cascode
XIO1 VDD INP_FOLDED_PROT INP_FOLDED VSS io_secondary_5p0
XIO2 VDD INN_FOLDED_PROT INN_FOLDED VSS io_secondary_5p0
XIO3 VDD INP_TELESCOPIC_PROT INP_TELESCOPIC VSS io_secondary_5p0
XIO4 VDD INN_TELESCOPIC_PROT INN_TELESCOPIC VSS io_secondary_5p0
XIO5 VDD INP_5T_PROT INP_5T VSS io_secondary_5p0
XIO6 VDD INN_5T_PROT INN_5T VSS io_secondary_5p0
XIO7 VDD IN_CS_PROT IN_CS VSS io_secondary_5p0
XIO8 VDD IBIAS_PROT IBIAS VSS io_secondary_5p0
XC1 VDD VSS cap_nmos_03v3_b c_width=19.15094e-6 c_length=20e-6 m=53
.ends


* expanding   symbol:  libs/core_digital/schem/scan_chain.sym # of pins=21
** sym_path: /foss/designs/libs/core_digital/schem/scan_chain.sym
** sch_path: /foss/designs/libs/core_digital/schem/scan_chain.sch
.subckt scan_chain VDD scan_out EN_1_5T EN_0_5T EN_0_CS EN_1_CS EN_0_TELESCOPIC EN_1_FOLDED EN_0_FOLDED EN_1_TELESCOPIC scan_in
+ !EN_1_FOLDED !EN_1_CS !EN_0_TELESCOPIC !EN_0_CS !EN_1_5T !EN_0_5T !EN_1_TELESCOPIC !EN_0_FOLDED CLK VSS
*.PININFO scan_in:I CLK:I VSS:I VDD:I !EN_0_FOLDED:O !EN_0_TELESCOPIC:O !EN_1_FOLDED:O !EN_1_TELESCOPIC:O !EN_0_5T:O !EN_1_5T:O
*+ !EN_0_CS:O !EN_1_CS:O scan_out:O EN_1_CS:O EN_0_CS:O EN_1_5T:O EN_0_5T:O EN_1_TELESCOPIC:O EN_0_TELESCOPIC:O EN_1_FOLDED:O EN_0_FOLDED:O
x1 VDD scan_in EN_0_FOLDED !EN_0_FOLDED CLK VSS D_ff1
x2 VDD EN_0_FOLDED EN_1_FOLDED !EN_1_FOLDED CLK VSS D_ff1
x3 VDD EN_1_FOLDED EN_0_TELESCOPIC !EN_0_TELESCOPIC CLK VSS D_ff1
x4 VDD EN_0_TELESCOPIC EN_1_TELESCOPIC !EN_1_TELESCOPIC CLK VSS D_ff1
x5 VDD EN_1_TELESCOPIC EN_0_5T !EN_0_5T CLK VSS D_ff1
x6 VDD EN_0_5T EN_1_5T !EN_1_5T CLK VSS D_ff1
x7 VDD EN_1_5T EN_0_CS !EN_0_CS CLK VSS D_ff1
x8 VDD EN_0_CS EN_1_CS !EN_1_CS CLK VSS D_ff1
x9 VDD EN_1_CS scan_out net1 CLK VSS D_ff1
.ends


* expanding   symbol:  libs/core_amps/ota_folded_cascode/prgrm_schem/programmable_folded_cascode.sym # of pins=10
** sym_path: /foss/designs/libs/core_amps/ota_folded_cascode/prgrm_schem/programmable_folded_cascode.sym
** sch_path: /foss/designs/libs/core_amps/ota_folded_cascode/prgrm_schem/programmable_folded_cascode.sch
.subckt programmable_folded_cascode EN0 VDD !EN0 VSS EN1 !EN1 INN INP OUT VG_BIAS
*.PININFO OUT:B VSS:B VDD:B EN0:B !EN0:B EN1:B !EN1:B INN:B INP:B VG_BIAS:B
M29 net7 net7 VDD VDD pfet_03v3 L=1u W=23u nf=1 m=5
M30 VBP2 VBP2 net7 VDD pfet_03v3 L=.5u W=19.6u nf=1 m=10
M31 VBP2 VG_BIAS VSS VSS nfet_03v3 L=1u W=27.1u nf=1 m=1
M32 VBN1 VBN1 VSS VSS nfet_03v3 L=1u W=27.1u nf=1 m=1
M33 VBN1 net7 VDD VDD pfet_03v3 L=1u W=23u nf=1 m=5
M34 VBP1 VBP1 VDD VDD pfet_03v3 L=1u W=23u nf=1 m=5
M35 VBP1 VG_BIAS VSS VSS nfet_03v3 L=1u W=27.1u nf=1 m=1
x1 net1 VSS VBN1 VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=20u length=1u nf=1 mult=2
x2 net2 VSS INN net1 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=30u length=0.5u nf=1 mult=2
x3 net3 VSS INP net1 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=30u length=0.5u nf=1 mult=2
x4 net5 VSS net5 VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=20.5u length=1u nf=1 mult=1
x5 net6 VSS net5 VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=20.5u length=1u nf=1 mult=1
x6 net4 VSS net4 net5 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=10.5u length=0.5u nf=1 mult=1
x7 OUT VSS net4 net6 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=10.5u length=0.5u nf=1 mult=1
x8 net4 VDD VBP2 net3 !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=29.6u length=0.5u nf=1 mult=5
x9 OUT VDD VBP2 net2 !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=29.6u length=0.5u nf=1 mult=5
x10 net3 VDD VBP1 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=34.8u length=1u nf=1 mult=10
x11 net2 VDD VBP1 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=34.8u length=1u nf=1 mult=10
.ends


* expanding   symbol:  libs/core_amps/cs_stage/prgrm_schem/programmable_common_source.sym # of pins=9
** sym_path: /foss/designs/libs/core_amps/cs_stage/prgrm_schem/programmable_common_source.sym
** sch_path: /foss/designs/libs/core_amps/cs_stage/prgrm_schem/programmable_common_source.sch
.subckt programmable_common_source !EN0 VSS VDD EN1 !EN1 EN0 IN OUT VG_BIAS
*.PININFO VSS:B VDD:B EN0:B !EN0:B EN1:B !EN1:B OUT:B IN:B VG_BIAS:B
x1 OUT VSS VG_BIAS VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=27.1u length=1u nf=1 mult=1
x2 OUT VDD IN VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=9.2u length=1u nf=1 mult=10
.ends


* expanding   symbol:  libs/core_amps/ota_5t/prgram_schem/programmable_5tOTA.sym # of pins=10
** sym_path: /foss/designs/libs/core_amps/ota_5t/prgram_schem/programmable_5tOTA.sym
** sch_path: /foss/designs/libs/core_amps/ota_5t/prgram_schem/programmable_5tOTA.sch
.subckt programmable_5tOTA VDD EN0 !EN0 vout EN1 !EN1 vin- vin+ V_bias VSS
*.PININFO VDD:I vout:O vin+:I vin-:I V_bias:I VSS:I EN0:I !EN0:I EN1:I !EN1:I
x1 net1 VSS vin+ net2 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=11.4u length=0.5u nf=1 mult=3
x2 vout VSS vin- net2 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=11.4u length=0.5u nf=1 mult=3
x4 vout VDD net1 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=50u length=0.5u nf=1 mult=2
x3 net1 VDD net1 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=50u length=0.5u nf=1 mult=2
x5 net2 VSS V_bias VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=22.8u length=1u nf=1 mult=3
.ends


* expanding   symbol:  libs/core_digital/schem/inv1.sym # of pins=4
** sym_path: /foss/designs/libs/core_digital/schem/inv1.sym
** sch_path: /foss/designs/libs/core_digital/schem/inv1.sch
.subckt inv1 Vdd A Y Vss
*.PININFO Vdd:I A:I Vss:I Y:O
M1 Y A Vss Vss nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 Y A Vdd Vdd pfet_03v3 L=0.28u W=0.84u nf=1 m=1
.ends


* expanding   symbol:  libs/core_digital/schem/transmission_gate.sym # of pins=6
** sym_path: /foss/designs/libs/core_digital/schem/transmission_gate.sym
** sch_path: /foss/designs/libs/core_digital/schem/transmission_gate.sch
.subckt transmission_gate ena_bar VDD out in VSS ena
*.PININFO in:I ena_bar:I ena:I VSS:I VDD:I out:O
M1 in ena_bar out VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 in ena out VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
.ends


* expanding   symbol:  libs/core_amps/ota_telescopic/programmable_ota_telescopic_schematics/programmable_telescopic_cascode.sym #
*+ of pins=10
** sym_path: /foss/designs/libs/core_amps/ota_telescopic/programmable_ota_telescopic_schematics/programmable_telescopic_cascode.sym
** sch_path: /foss/designs/libs/core_amps/ota_telescopic/programmable_ota_telescopic_schematics/programmable_telescopic_cascode.sch
.subckt programmable_telescopic_cascode VDD output EN0 !EN0 EN1 !EN1 INN INP VSS VG_BIAS
*.PININFO output:O VDD:B !EN0:B EN1:B EN0:B !EN1:B INP:I INN:I VSS:B VG_BIAS:B
**** begin user architecture code


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
M1 VBN VG_BIAS VSS VSS nfet_03v3 L=0.5u W=30u nf=1 m=1
M2 VBP VBP VSS VSS nfet_03v3 L=0.5u W=1.5u nf=1 m=1
M4 VBP VBN VDD VDD pfet_03v3 L=0.50u W=70u nf=1 m=1
M3 VBN VBN VDD VDD pfet_03v3 L=0.50u W=70u nf=1 m=1
x9 net6 VDD net4 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=40u length=0.5u nf=1 mult=6
x8 net5 VDD net4 VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=40u length=0.5u nf=1 mult=6
x6 net4 VDD VBP net5 !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=47u length=0.5u nf=1 mult=5
x7 output VDD VBP net6 !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=47u length=0.5u nf=1 mult=5
x5 output VSS VBN net2 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=45u length=0.4u nf=1 mult=6
x4 net4 VSS VBN net3 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=45u length=0.4u nf=1 mult=6
x2 net3 VSS INP net1 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=30u length=0.5u nf=1 mult=1
x3 net2 VSS INN net1 !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=30u length=0.5u nf=1 mult=1
x1 net1 VSS VG_BIAS VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=27.1u length=1u nf=1 mult=2
.ends


* expanding   symbol:  libs/secondary_esd/io_secondary_5p0.sym # of pins=4
** sym_path: /foss/designs/libs/secondary_esd/io_secondary_5p0.sym
** sch_path: /foss/designs/libs/secondary_esd/io_secondary_5p0.sch
.subckt io_secondary_5p0 VDD to_gate ASIG5V VSS


*.PININFO VSS:B VDD:B to_gate:B ASIG5V:B
D1 to_gate VDD diode_pd2nw_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
XR1 to_gate ASIG5V VSS ppolyf_u r_width=40e-6 r_length=10e-6 m=1
D2 VSS to_gate diode_nd2ps_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends


* expanding   symbol:  libs/core_digital/schem/D_ff1.sym # of pins=6
** sym_path: /foss/designs/libs/core_digital/schem/D_ff1.sym
** sch_path: /foss/designs/libs/core_digital/schem/D_ff1.sch
.subckt D_ff1 VDD D Q Q_bar CLK VSS
*.PININFO D:I CLK:I VDD:I VSS:I Q:O Q_bar:O
x1 VDD D net2 net3 CLK VSS D_latch1
x2 VDD net2 Q Q_bar net1 VSS D_latch1
x3 VDD CLK net1 VSS inv1
.ends


* expanding   symbol:  libs/core_digital/schem/programmable_nfet.sym # of pins=10
** sym_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sch
.subckt programmable_nfet d b g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS  width=0.22u length=0.28u nf=1 mult=1
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<1>:I ena<0>:I d:B s:B b:I
M1 d net2 s b nfet_03v3 L={length} W={width} nf={nf} m={mult}
M3 d net1 s b nfet_03v3 L={length} W={2*width} nf={2*nf} m={mult}
M2 net1 ena_bar<1> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena_bar<0> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s b nfet_03v3 L={length} W={width} nf={nf} m={mult}
.ends


* expanding   symbol:  libs/core_digital/schem/programmable_pfet.sym # of pins=10
** sym_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sch
.subckt programmable_pfet d b g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS  width=0.22u length=0.28u nf=1 mult=1
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<0>:I s:B d:B b:I ena<1>:I
M1 d net2 s b pfet_03v3 L={length} W={width} nf={nf} m={mult}
M3 d net1 s b pfet_03v3 L={length} W={2*width} nf={2*nf} m={mult}
M2 net1 ena<1> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena<0> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s b pfet_03v3 L={length} W={width} nf={nf} m={mult}
.ends


* expanding   symbol:  libs/core_digital/schem/D_latch1.sym # of pins=6
** sym_path: /foss/designs/libs/core_digital/schem/D_latch1.sym
** sch_path: /foss/designs/libs/core_digital/schem/D_latch1.sch
.subckt D_latch1 Vdd D Q Q_bar clk Vss
*.PININFO D:I Vdd:I Vss:I clk:I Q:O Q_bar:O
x1 Vdd net3 D clk Vss NAND2
x2 Vdd net2 net1 clk Vss NAND2
x3 Vdd Q_bar Q net2 Vss NAND2
x4 Vdd Q net3 Q_bar Vss NAND2
x5 Vdd D net1 Vss inv1
.ends


* expanding   symbol:  libs/core_digital/schem/NAND2.sym # of pins=5
** sym_path: /foss/designs/libs/core_digital/schem/NAND2.sym
** sch_path: /foss/designs/libs/core_digital/schem/NAND2.sch
.subckt NAND2 Vdd Y A B Vss
*.PININFO A:I B:I Vss:I Vdd:I Y:O
M1 Y A net1 Vss nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 net1 B Vss Vss nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M3 Y A Vdd Vdd pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 Y B Vdd Vdd pfet_03v3 L=0.28u W=0.42u nf=1 m=1
.ends

